US07517888B2
To 1 mL of methylamine, cooled at −80° C. in a steel vial, ethanol (13 mL) and triethylamine (1.3 mL) were added. Commercially available 4,6-dichloro-pyrimidin-5-yl-amine (3.0 mmol) was added to the solution and the reaction mixture heated at 80° C. for 3 hours. The solvent was removed in vacuo, and the resulting compound, (5-amino-6-chloropyrimidin-4-yl)methylamine, was obtained after silica gel chromatography and/or crystallization.

reactant | methylamine | 1 mL | CN | CH5N
reactant | ethanol | 13 mL | C(C)O | C2H6O
reactant | 4,6-dichloro-pyrimidin-5-yl-amine | 3.0 mmol | ClC1=NC=NC(=C1N)Cl | C4H3Cl2N3
solvent | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | (5-amino-6-chloropyrimidin-4-yl)methylamine | NC=1C(=NC=NC1Cl)CN | C5H7ClN4
